US05854268
1. (3R)-1-(tert-Butoxycarbonyl)-3-[(4-fluorobenzylthio)methyl]pyrrolidine
Using a similar method to that described in Example 93, step 1, (3R)-1-(tert-butoxycarbonyl)-3-[(methanesulfonyloxy)methyl]pyrrolidine (1.5000 g, 5.37 mmol) was reacted with 4-fluorobenzyl mercaptan (1.5511 g, 10.91 mmol) and potassium carbonate (1.1132 g, 8.05 mmol) in DMF (30 ml) at room temperature for 24 h to give 1.7507 g (100%) of the title compound as a colourless oil. δH (360 MHz, CDCl3) 1.45 (9H, s), 1.60 (1H, m), 2.00 (1H, m), 2.44 (2H, m), 2.97 (1H, m), 3.28 (1H, m), 3.46 (2H, m), 3.69 (2H, s), 7.00 (2H, t, J=8.6 Hz), 7.25-7.29 (2H, m). m/e (ES+) 348 (M+Na)+, 326 M+H)+, 270 (M-CMe3 +2H)+.

reactant | (3R)-1-(tert-butoxycarbonyl)-3-[(methanesulfonyloxy)methyl]pyrrolidine | 5.37 mmol, 1.5000 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)COS(=O)(=O)C | C11H21NO5S
reactant | 4-fluorobenzyl mercaptan | 10.91 mmol, 1.5511 g | FC1=CC=C(CS)C=C1 | C7H7FS
reactant | potassium carbonate | 8.05 mmol, 1.1132 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | (3R)-1-(tert-Butoxycarbonyl)-3-[(4-fluorobenzylthio)methyl]pyrrolidine | 1.7507 g, 100% | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)CSCC1=CC=C(C=C1)F | C17H24FNO2S
